US09403816B2
6-Iodo-3-phenyl-2-(trifluoromethyl)quinolin-4-ol
A mixture of 2-amino-5-iodobenzoic acid (5.20 g, 19.8 mmol), 1,1,1-trifluoro-3-phenylpropan-2-one (3.95 g, 21.0 mmol), and Eaton's reagent (12 mL) in a sealed tube was heated at 100° C. for 2 hours. More 1,1,1-trifluoro-3-phenylpropan-2-one (1.60 g, 8.50 mmol) was added and the mixture was heated for another 2 hours. The reaction was then cooled to room temperature, ice water was added, and the mixture was stirred vigorously for about 20 minutes. 50% Aqueous NaOH and concentrated NH4OH solutions were added until pH 9. The resulting dark brown gummy material that formed was diluted with DCM which resulted in a solid precipitate that was collected by filtration. The solids were washed with water and Et2O and air dried to provide the title compound.

reactant | 2-amino-5-iodobenzoic acid | 19.8 mmol, 5.20 g | NC1=C(C(=O)O)C=C(C=C1)I | C7H6INO2
reactant | 1,1,1-trifluoro-3-phenylpropan-2-one | 21.0 mmol, 3.95 g | FC(C(CC1=CC=CC=C1)=O)(F)F | C9H7F3O
reactant | Eaton's reagent | 12 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
reactant | 1,1,1-trifluoro-3-phenylpropan-2-one | 8.50 mmol, 1.60 g | FC(C(CC1=CC=CC=C1)=O)(F)F | C9H7F3O
reactant | NaOH | [OH-].[Na+]
reactant | NH4OH | [NH4+].[OH-]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-Iodo-3-phenyl-2-(trifluoromethyl)quinolin-4-ol | IC=1C=C2C(=C(C(=NC2=CC1)C(F)(F)F)C1=CC=CC=C1)O | C16H9F3INO
